US07169791B2
3-Amino-5-(trifluoromethyl)-N-(methyl)-benzamide
Utilising the procedure described in Example 86e, but employing α,α,α-trifluoro-N-methyl-5-nitro-m-toluamide (Dean E. Welch, J. Med. Chem. (1969),12, 299–303) in lieu of 3-(4-morpholinyl)-5-nitro-N-(methyl)-benzamide, afforded the title compound as a beige crystalline solid, m.p. 113–115° C.

reactant | α,α,α-trifluoro-N-methyl-5-nitro-m-toluamide | FC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)NC)(F)F | C9H7F3N2O3
reactant | 3-(4-morpholinyl)-5-nitro-N-(methyl)-benzamide | N1(CCOCC1)C=1C=C(C(=O)NC)C=C(C1)[N+](=O)[O-] | C12H15N3O4
product | 3-Amino-5-(trifluoromethyl)-N-(methyl)-benzamide | NC=1C=C(C(=O)NC)C=C(C1)C(F)(F)F | C9H9F3N2O
